data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2385,"CC1(C)SCC[S+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,244,"CC(C)[C:1](C)=[O+:2][Ti-]([Cl])([Cl])([Cl])[Cl].CC([Si](C)(C)C)=[C:3]=[CH2:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8841,"CC(C)C(C(=O)O)[NH:1][C:2](CCC1(C)C(=O)CC[C:3]1=[O:4])=[CH:5]C.CC(C)C(N)C(=O)O.O|(1, 2);((2, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1539,"CCN(CC)[C:1](C)([NH2+:2]CC)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9150,"[OH][Li-:1][OH+:2]C1C2C3CCC(C3)C1(Cl)C1C=CCC21|((1, 2), 2)"
train,pmechdb_split_0,0,7722,"CC(C)[CH:1]=[O+:2]C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1817,"C[C-:1](Br)C#N.[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6515,"CC(C)(C)[O-:1].C[C:2](C1=CC=CC=C1)([H:3])[CH:4](C)[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6618,"CC=C[CH+:1]CC.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,8924,"CCC1C(CCC[CH2:1][O:2]S(C)(=O)=O)C2C(CCN2C(=O)OC)C2C(C)C(=O)OC12.[I-:3].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5507,"CCC[NH2:1].COC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4397,"CC(=O)[O:1][C:2](C)(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9699,"CC(=O)O[C:1](C)=[O:2].CC=CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,180,"COC1=C(OC)C2=C(C=C1)CC1C3=C(C=C4OCOC4=C3)CCN1C2.ClC1=CC(C(O[O:1][H:2])=[O:3])=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2944,"CC1CCCC(C2=CC=CC=C2)[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,665,"CO[C:1](O)=[NH+:2]CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5339,"NC1=CC=CN=C1Cl.O.O=N[OH:1].[H:2][Br:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4251,"C1CC[NH:1]CC1.COC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7404,"CO.COC1=C(O)C2=C(C=C1)CC1C3C[CH+:1][C:2](O)=[CH:3]C23CCN1CC1CC1.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,9299,"C1=CC([NH2:1])=NN1.CC(=O)CC[C:2](C)=[O:3].CC(=O)O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,791,"CC(=O)[O-:1].CC1=[N+:2]([H:3])CC(=O)O1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6452,"CN[C:1]1([O-:2])OCCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9139,"C[S:1]C[CH2:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2220,"C[N+:1](C)=[CH2:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1108,"C1=CC=[N:1]C=C1.CC(C)=O.CC1(O)CCC(OCCO)([OH+:2][H:3])CC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8228,"CC(=O)[O-].CC1=CC(C)=C2C=CC3=C(N=CN3)C2=[N+:1]1[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7313,"CC1CCCCC1(N1CCCC1)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,177,"O=S(=O)(O)[C:1]1([H:2])C=CC=C(C(F)(F)F)[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8172,"[O-]CC=C[CH:1]([O-:2])[O:3][AlH2]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8242,"CC[O+:1](C(O)(O)CCO[Si](C)(C)C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6535,"CO[C:1]([O:2][Li-][O+:3]=[CH:4]CC(CCO[Si](C)(C)C(C)(C)C)OC(C)=O)=[CH2:5]|(2, 1);((1, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8183,"CC[O+:1](C(C)(O)OC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7819,"CC(C)O.CC(C)[O][Al:1]([O]C(C)C)[O]C1C(=[O:2])CC2(OCCO2)C2(C)CC3OC(C)(C)OC3CC12|(2, 1)"
train,pmechdb_split_0,0,9255,"C[N:1](C)[S+:2](C)[O-]|(1, 2)"
train,pmechdb_split_0,0,607,"C1CCC(N=[C:1]=[NH+:2]C2CCCCC2)CC1.CCCCCCCCC=CCCCCCCCC(=O)O.CCCCCCCCC=CCCCCCCCC(=O)[O-:3].CN(C)C1=CC=NC=C1.OCC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,91,"C1=CC2=CC=CC(C3([OH:1])CCCC3)=C2C=C1.C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5831,"CC1=CC=C(S(=O)(=O)[N+:1]2=[CH:2]C(CCCO[B-](F)(F)F)CCC2)C=C1.C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,149,"CCO.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CCC(OCCO)([OH+:1][H:2])CC1CC1=CC=CC=C1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5333,"C=CC[Si](C)(C)C.CC[O+](C1CC2OC(=O)OC2C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)O1)[Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,6090,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].COC1=CC=C(COC2C(C3=C(OC)N=C(OC)N=C3)OC3C(N=[N+]=[N-])C([OH:2])COC23)C=C1|(2, 1)"
train,pmechdb_split_0,0,3038,"CS(=O)(=O)C1=CC=C(C2=C[N:1]=[C:2]([N+]#N)C=N2)C=C1.O=S(=O)([O-])[O-].[Na+].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3596,"CCC1CC(=N[OH:1])C2=CC=CC=C21.CC[NH+](CC)CC.O=[S:2](=O)=[CH2:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5183,"C=C1C[C:1]2(C(C)(C)C)CCCC(=[O+][B-](Cl)(Cl)Cl)[CH:2]12|((1, 2), 2)"
train,pmechdb_split_0,0,4340,"C#CCCC12CC([Si](C)(C)C)[C:1]([O-:2])=[CH:3][C:4]1([OH:5])CCC2C.CO.[OH][K]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4944,"CC(C(=O)C1CCCC2=C(C=CC=C2)C1=O)(C1CCCCC1)[O:1][P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O-:3].O|(3, 2);((2, 1), 1)"
